US06900354B2
b) 1-(3-Fluoro-benzyloxy)-4-ethynyl-benzene
A solution of 2.06 g (6.9 mmol) of [4-(3-fluoro-benzyloxy)-phenylethynyl]-trimethyl-silane in 35 ml methanol is treated with 95 mg (0.69 mmol) of solid potassium carbonate. The mixture is stirred at RT for 3 h, concentrated and treated with saturated aqueous sodium hydrogencarbonate. The compound is extracted three times with dichloromethane, dried over magnesium sulfate and concentrated to yield 1.53 g (98%) of a slightly brown oil. MS (neg.ions): m/e=225.4 (M−H).

reactant | [4-(3-fluoro-benzyloxy)-phenylethynyl]-trimethyl-silane | 6.9 mmol, 2.06 g | FC=1C=C(COC2=CC=C(C=C2)C#C[Si](C)(C)C)C=CC1 | C18H19FOSi
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 35 ml | CO | CH4O
product | 1-(3-Fluoro-benzyloxy)-4-ethynyl-benzene | FC=1C=C(COC2=CC=C(C=C2)C#C)C=CC1 | C15H11FO
